US06166064
3-(1-Hydroxy-cyclobutyl)-benzenesulfonamide
A 1.6M solution of n-butyllithium (8 ml, 12.8 mmol) in hexane was added to a solution of 1-(3-bromo-phenyl)-cyclobutanol (1.44 grams, 6.4 mmol) in tetrahydrofuran at -78° C. After 30 minutes, at the reaction was allowed to warm to 0° C. Sulfur dioxide was bubbled into the reaction mixture and stirred for an additional 30 minutes. The tetrahydrofuran was evaporated and an aqueous solution of sodium acetate (4.1 grams, 50 mmol) and of hydroxylamine-sulfonic acid (1.85 grams, 16 mmol) was added. After stirring at room temperature for 2 hours, the reaction was acidified with 2N hydrochloric acid then extracted with ethyl acetate. The ethyl acetate was dried over sodium sulfate and evaporated. The residue was purified on silica gel with dichloromethane/ether to give 70 mg of the titled compound.

reactant | n-butyllithium | 12.8 mmol, 8 ml | C(CCC)[Li]
reactant | 1-(3-bromo-phenyl)-cyclobutanol | 6.4 mmol, 1.44 grams | BrC=1C=C(C=CC1)C1(CCC1)O | C10H11BrO
reactant | sodium acetate | 50 mmol, 4.1 grams | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-sulfonic acid | 16 mmol, 1.85 grams | N(O)S(=O)(=O)O | H3NO4S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1-Hydroxy-cyclobutyl)-benzenesulfonamide | 70 mg | OC1(CCC1)C=1C=C(C=CC1)S(=O)(=O)N | C10H13NO3S
